US07919628B2
0.16 g hydroxylamine hydrochloride was added to a room temperature solution of 0.28 g 1-(6-trifluoromethyl-pyridin-3-yl-methoxy)-naphthalene-2-carboxylic acid (cyano-dimethyl-methyl)-amide and 0.50 g potassium carbonate in 5 ml 95% ethanol, and the resulting mixture was heated at reflux for 24 h. The reaction mixture was cooled to room temperature, diluted with 100 ml ethyl acetate, and was washed twice with 100 ml sat. sodium hydrogen carbonate solution and 100 ml brine. The combined organic layers were dried over sodium sulphate, and concentrated in vacuo to give an orange oil. Purification of the residue by RP-HPLC afforded 0.031 g of 1-(6-trifluoromethyl-pyridin-3-yl-methoxy)-naphthalene-2-carboxylic acid [1-(N-hydroxycarbamimidoyl)-1-methyl-ethyl]-amide as a colorless foam.

reactant | hydroxylamine hydrochloride | 0.16 g | Cl.NO
reactant | 1-(6-trifluoromethyl-pyridin-3-yl-methoxy)-naphthalene-2-carboxylic acid (cyano-dimethyl-methyl)-amide | 0.28 g | C(#N)C(C)(C)NC(=O)C1=C(C2=CC=CC=C2C=C1)OCC=1C=NC(=CC1)C(F)(F)F | C22H18F3N3O2
reactant | potassium carbonate | 0.50 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 1-(6-trifluoromethyl-pyridin-3-yl-methoxy)-naphthalene-2-carboxylic acid [1-(N-hydroxycarbamimidoyl)-1-methyl-ethyl]-amide | 0.031 g | ONC(=N)C(C)(C)NC(=O)C1=C(C2=CC=CC=C2C=C1)OCC=1C=NC(=CC1)C(F)(F)F | C22H21F3N4O3
